US07238725B2
Step 4: N4-(3,5-dichloro-4-pyridyl)-9-benzyl-6-chloro-1-methoxy-9H-4-carbazole carboxamide
To a solution of 4-Nitrophenyl 9-benzyl-6-chloro-1-methoxy-4-carbazole carboxylate (124 mg, 0.255 mmoles) in dry DMF (3 ml) under nitrogen atmosphere, 3,5-dichloro-4-amino pyridine (41.5 mg, 0.255 mmoles) was added followed by sodium hydride (60% suspension, 16.7 mg, 0.382 mmoles) and the reaction mixture was stirred at room temperature for one hour. Ice pieces were added to the reaction mixture, diluted with water (15 ml) and neutralized with 1N HCl. The precipitated product was filtered, washed with water, dried and purified by column chromatography to give 60 mg of the title compound as an off white solid, m. p: 210-213° C.

reactant | 4-Nitrophenyl 9-benzyl-6-chloro-1-methoxy-4-carbazole carboxylate | 0.255 mmoles, 124 mg | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C(=CC=C(C12)OC)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])Cl | C27H19ClN2O5
reactant | 3,5-dichloro-4-amino pyridine | 0.255 mmoles, 41.5 mg | ClC=1C=NC=C(C1N)Cl | C5H4Cl2N2
reactant | sodium hydride | 0.382 mmoles, 16.7 mg | [H-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | water | 15 ml | O | H2O
product | N4-(3,5-dichloro-4-pyridyl)-9-benzyl-6-chloro-1-methoxy-9H-4-carbazole carboxamide | 60 mg | ClC=1C=NC=C(C1NC(=O)C1=CC=C(C=2N(C3=CC=C(C=C3C12)Cl)CC1=CC=CC=C1)OC)Cl | C26H18Cl3N3O2
